US07030138B2
To a solution of 2-chloro-4-nitrophenol (5.2 g) in N,N-dimethylformamide (50 ml) were successively added methoxymethoxy chloride (2.7 ml) and triethylamine (5.0 ml) with stirring under ice-cooling, and the resulting mixture was stirred at room temperature for 1 hour. After stirring, to the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The extract was washed successively with water and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated in vacuo to afford 3-chloro-4-methoxymethoxynitrobenzene (8.1 g) as a yellow oil.

reactant | 2-chloro-4-nitrophenol | 5.2 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | methoxymethoxy chloride | 2.7 ml | COCOCl | C2H5ClO2
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4-methoxymethoxynitrobenzene | 8.1 g | ClC=1C=C(C=CC1OCOC)[N+](=O)[O-] | C8H8ClNO4
